US05071999
a) tert.-Butyl 2-benzyldiazabicyclo[3.3.0]octane-7-carboxylate
20.2 g (0.1 mol) of 2-benzyl-2,7-diazabicyclo -[3.3.0]octane are dissolved in 125 ml of tert.-butanol, a solution of 4.2 g of sodium hydroxide in 100 ml of water is added and 23 g (0.105 mol) of di-tert.-butyl pyrocarbonate are added dropwise at room temperature. The mixture is stirred overnight at room temperature and extracted five times with 100 ml of chloroform each time, the extracts are dried over potassium carbonate and concentrated, and the residue is distilled.

reactant | 2-benzyl-2,7-diazabicyclo -[3.3.0]octane | 0.1 mol, 20.2 g | C(C1=CC=CC=C1)N1C2CNCC2CC1 | C13H18N2
reactant | sodium hydroxide | 4.2 g | [OH-].[Na+]
reactant | di-tert.-butyl pyrocarbonate | 0.105 mol, 23 g | C(OC(C)(C)C)(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | tert.-butanol | 125 ml | C(C)(C)(C)O | C4H10O
solvent | water | 100 ml | O | H2O
product | tert.-Butyl 2-benzyldiazabicyclo[3.3.0]octane-7-carboxylate | C(C1=CC=CC=C1)N1N2CC(CC2CC1)C(=O)OC(C)(C)C | C18H26N2O2
